US04829069
(g) 4-(2-Dimethylaminobenzylthio)-quinazoline
The title compound(1.31 g) was prepared from 4-mercaptoquinazoline(3.0 g) and 2-dimethylamino benzyl chloride(6.1 g).

reactant | 4-mercaptoquinazoline | 3.0 g | SC1=NC=NC2=CC=CC=C12 | C8H6N2S
reactant | 2-dimethylamino benzyl chloride | 6.1 g | CN(C1=C(CCl)C=CC=C1)C | C9H12ClN
product | 4-(2-Dimethylaminobenzylthio)-quinazoline | 1.31 g | CN(C1=C(CSC2=NC=NC3=CC=CC=C23)C=CC=C1)C | C17H17N3S
